US06403602B1
3-O-Isobutyrylmorphine
The procedure employed was similar to the one utilized for obtaining the 3-O-acetyl ester of morphine, except that to the continuously stirred suspension of morphine free base ( 310 mg., 1.09 mmol. ) an excess of isobutyric anhydride was added. This procedure afforded 0.190 am. (49.1%) of the 3-O-isobutyryl ester of morphine ax a colorless solid, homogeneous by TLC (CHCl3:MeOH (9:1), Rf=0.8). Elemental analysis: Calcd. for C21H25NO4: C, 70.99; H, 7.04; N, 3.94. Found: C, 71.01; H, 7.06; N, 4.00.

reactant | morphine | 1.09 mmol, 310 mg | C1=CC(O)=C2C=3[C@@]45[C@@H](O2)[C@@H](O)C=C[C@H]4[C@@H](CC13)N(C)CC5 | C17H19NO3
reactant | isobutyric anhydride | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
solvent | CHCl3 MeOH | C(Cl)(Cl)Cl.CO
product | 3-O-Isobutyrylmorphine | C(C(C)C)(=O)OC=1C=CC=2C[C@@H]3[C@@H]4C=C[C@@H]([C@H]5[C@@]4(C2C1O5)CCN3C)O | C21H25NO4
